US07547691B2
(B). Preparation of (4-carboxybenzo[b]thiophen-2-yl)boronic acid
n-Butyllithium (2.5 M, 94 mL) is added dropwise to a stirred solution of diisopropylamine (33.0 mL, 235 mmol) in anhydrous THF (300 mL) at −78° C. under nitrogen atmosphere. After 30 minutes, a solution of benzo[b]thiophene-4-carboxylic acid (20.0 g, 112 mmol) in anhydrous THF (300 mL) is added. Upon the completion of addition, the reaction mixture is allowed to warm up to 0° C. where it is stirred for another 2 hours. The reaction mixture is cooled to −30° C. before it is treated with triisopropyl borate (65.0 mL, 282 mmol). The cooling bath is then removed and the reaction is allowed to reach ambient temperature where it is carefully quenched with concentrated HCl (200 mL). After evaporation of THF a suspension is formed, the solid is collected by filtration, washed twice with water (150 mL×2) and dried to provide the title compound as a white solid (20.0 g, 80% yield).

reactant | n-Butyllithium | 2.5 M, 94 mL | C(CCC)[Li]
reactant | diisopropylamine | 235 mmol, 33.0 mL | C(C)(C)NC(C)C | C6H15N
reactant | benzo[b]thiophene-4-carboxylic acid | 112 mmol, 20.0 g | S1C2=C(C=C1)C(=CC=C2)C(=O)O | C9H6O2S
reactant | triisopropyl borate | 282 mmol, 65.0 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | (4-carboxybenzo[b]thiophen-2-yl)boronic acid | 20.0 g, 80% yield | C(=O)(O)C1=CC=CC=2SC(=CC21)B(O)O | C9H7BO4S
